### PR TITLE
[Merged by Bors] - chore(Logic): remove all `backward.isDefEq.respectTransparency` and `backward.defeqAttrib` options

### PR DESCRIPTION
**Pull request by FrankieNC**
This removes all remaining `backward.isDefEq.respectTransparency` (and `.types`) options from `Mathlib/Logic`, as well as the two `backward.defeqAttrib.useBackward` ones. Most were stale and could just be deleted.

Three proofs needed actual fixing: `uniqueEmbeddingEquivResult` and `image_symm_preimage` now avoid unfolding through the coercions, and in the `sigmaSigmaSubtype` section it suffices to add `subtypeEquiv` to the local simp set (this also gives `sigmaSigmaSubtype_apply` a nicer form, and makes the `defeqAttrib` options unneeded).

The simps lemmas of `ofPreimageEquiv` change shape slightly; their only user, `HomOrthogonal.lean`, is unaffected.

### CODE REVIEW

File: Mathlib/Logic/Equiv/Set.lean [hunk 1]
```diff
@@ -586,9 +585,6 @@ def sigmaPreimageEquiv {α β} (f : α → β) : (Σ b, f ⁻¹' {b}) ≃ α :=
   sigmaFiberEquiv f
 
 -- See also `Equiv.ofFiberEquiv`.
-#adaptation_note
-/-- `respectTransparency.types true` changes the auto-generated lemmas' signature -/
-set_option backward.isDefEq.respectTransparency.types false in
```
Comment (felixpernegger) [inline Mathlib/Logic/Equiv/Set.lean:591]: It seems like this adaptation note was made to not blindly remove the `backward.isDefEq.respectTransparency.types` exception?

File: Mathlib/Logic/Equiv/Basic.lean [hunk 2]
```diff
@@ -456,8 +456,6 @@ def sigmaSigmaSubtype {α : Type*} {β : α → Type*} {γ : (a : α) → β a 
   _ ≃ _ := uniqueSigma (fun ab ↦ γ (Sigma.fst <| Subtype.val ab) (Sigma.snd <| Subtype.val ab))
   _ ≃ γ a b := Equiv.cast <| by rw [← show ⟨⟨a, b⟩, h⟩ = uniq.default from uniq.uniq _]
```
Comment (felixpernegger) [inline Mathlib/Logic/Equiv/Basic.lean]:
```suggestion
  _ ≃ γ a b := Equiv.cast <| by rw [← uniq.uniq ⟨⟨a, b⟩, h⟩]
```
preexisting but i think nicer

File: Mathlib/Logic/Equiv/Basic.lean [hunk 3]
```diff
@@ -440,9 +440,9 @@ def sigmaSubtype {α : Type*} {β : α → Type*} (a : α) :
 
 
 section
-attribute [local simp] Trans.trans sigmaAssoc subtypeSigmaEquiv uniqueSigma eqRec_eq_cast
+attribute [local simp] Trans.trans sigmaAssoc subtypeEquiv subtypeSigmaEquiv uniqueSigma
+  eqRec_eq_cast
```
Comment (felixpernegger) [inline Mathlib/Logic/Equiv/Basic.lean:444]: Do you have an idea what is going on here? It seems like we really need the local simp attribute and  adding `subypeEquiv` to the individual `simp` doesnt help (even though the `simp?` isnt showing it even)

File: Mathlib/Logic/Equiv/Option.lean [hunk 4]
```diff
@@ -234,12 +232,10 @@ theorem optionSubtype_symm_apply_apply_none
...
   rfl
 
-set_option backward.isDefEq.respectTransparency false in
 @[simp]
 theorem optionSubtype_symm_apply_symm_apply [DecidableEq β] (x : β) (e : α ≃ { y : β // y ≠ x })
     (b : { y : β // y ≠ x }) : ((optionSubtype x).symm e : Option α ≃ β).symm b = e.symm b := by
-  simp only [optionSubtype, coe_fn_symm_mk, Subtype.coe_mk,
-             Subtype.coe_eta, dite_eq_ite, ite_eq_right_iff]
+  simp only [optionSubtype, coe_fn_symm_mk, Subtype.coe_eta, dite_eq_ite, ite_eq_right_iff]
   exact fun h => False.elim (b.property h)
```
Comment (felixpernegger) [inline Mathlib/Logic/Equiv/Option.lean]:
```suggestion
  have := b.property
  simp_all [optionSubtype]
```
your proof shifts the defeq abuse into he `False.elim`

**Review by felixpernegger — COMMENTED** [review]
FYI right now there are many unused `backward.isDefEq` exceptions, see [#mathlib4 > 4.33.0-rc1 Multiple &#96;respectTransparency&#96;-related issues](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/4.2E33.2E0-rc1.20Multiple.20.60respectTransparency.60-related.20issues/with/611128727).

So while this PR is good to have, doing it later (when redundant once are again removed) will save you some time :)

File: Mathlib/Logic/Equiv/Option.lean (hunk 4 above)
Comment (FrankieNC) [reply Mathlib/Logic/Equiv/Option.lean]: Sorry! Thanks for spotting it!

File: Mathlib/Logic/Equiv/Set.lean (hunk 1 above)
Comment (FrankieNC) [reply Mathlib/Logic/Equiv/Set.lean:591]: I checked how the signature changes before removing it. 

`ofPreimageEquiv_symm_apply` is identical as before.

The only difference is in `ofPreimageEquiv_apply`:

```
-- with the option:
(ofPreimageEquiv e) a = ↑((e (f a)) ((sigmaFiberEquiv f).symm a).snd)
-- without:
(ofPreimageEquiv e) a = ↑((sigmaCongrRight e) ((sigmaFiberEquiv f).symm a)).snd
```
which is the same equation. `simp` doesn't simplify the RHS as far anymore: to get from the second form to the first you need `((sigmaFiberEquiv f).symm a).fst` to reduce to `f a`, which is the `defeq` the option was allowing.

Nothing in mathlib uses either generated lemma, and the only place using `ofPreimageEquiv` at all is `HomOrthogonal.lean`, which still builds. So I don't think anything depends on the old shape.

File: Mathlib/Logic/Equiv/Basic.lean (hunk 3 above)
Comment (FrankieNC) [reply Mathlib/Logic/Equiv/Basic.lean:444]: I think what's happening is this: the local simp attribute isn't for the proofs, it's for `simps`.

`+simpRhs` tells `simps` to simplify the RHS of the lemma it generates, and it does that at the moment the def is elaborated, using the simp set in scope at that point. So with `subtypeEquiv` in the local attribute, `sigmaSigmaSubtype_apply` gets generated as `… = cast ⋯ (↑x).snd.snd`. Without it, the generated RHS still contains an unsimplified `….subtypeEquiv ⋯` term.

The two lemmas below are proved by rewriting with that generated lemma, so they inherit whichever shape it got. That would explain both observations: adding `subtypeEquiv` to their simp calls doesn't help because the bad term sits inside the lemma they rewrite with, not in their goals, and `simp?` doesn't show `subtypeEquiv` because the proofs never actually use it — it only gets used once, during generation.

An alternative would be to define `sigmaSigmaSubtype` with explicit `toFun`/`invFun`, which removes the need for the local simp set and `+simpRhs` altogether.

File: Mathlib/Logic/Equiv/Set.lean (hunk 1 above)
Comment (felixpernegger) [reply Mathlib/Logic/Equiv/Set.lean:591]: Good you checked :)
If it is never used / doesnt make a difference, i dont see a reason to change the option away from default

File: Mathlib/Logic/Equiv/Basic.lean (hunk 3 above)
Comment (felixpernegger) [reply Mathlib/Logic/Equiv/Basic.lean:444]: Oh smart, thanks for investigating this. I am not a big fan of local simp attributes, but since there are already a lot, one more wont change the world.

**Review by felixpernegger — APPROVED** [review]

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
